### PR TITLE
[Merged by Bors] - feat: topology on Hom(R, S) in `CommRingCat`

### PR DESCRIPTION
**Pull request by erdOne**
Co-authored-by: Christian Merten

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Category/Ring/Topology.lean [hunk 1]
```diff
@@ -0,0 +1,176 @@
...
+import Mathlib.Algebra.MvPolynomial.CommRing
+import Mathlib.Topology.Algebra.Ring.Basic
+
+/-!
+# Topology on `Hom(R, S)`
+
+In this file, we define topology on `Hom(R, S)` for a topological ring `S`,
+given by the coarsest topology that makes `f ↦ f x` continuous for all `x : R`.
+Alternatively, given a presentation `R = ℤ[x₁,...,xₙ]/I`,
+This is the subspace topology `Hom(R, S) ↪ Hom(ℤ[x₁,...,xₙ], S) = Sⁿ`.
```
Comment (dagurtomas) [inline Mathlib/Algebra/Category/Ring/Topology.lean:17]:
```suggestion
Alternatively, given a presentation `R = ℤ[x₁,...,xₙ]/I`,
this is the subspace topology `Hom(R, S) ↪ Hom(ℤ[x₁,...,xₙ], S) = Sⁿ`.
```

File: Mathlib/Algebra/Category/Ring/Topology.lean [hunk 2]
```diff
@@ -0,0 +1,176 @@
...
+    Continuous (fun f : R ⟶ S ↦ f.hom x) :=
+  (continuous_apply x).comp continuous_induced_dom
+
+@[fun_prop]
+lemma continuous_comp_right [TopologicalSpace T] (f : R ⟶ S) :
+    Continuous ((f ≫ ·) : (S ⟶ T) → (R ⟶ T)) :=
+  continuous_induced_rng.mpr ((Pi.continuous_precomp f.hom).comp continuous_induced_dom)
+
+/-- If `R ≃ S`, then `Hom(R, T)` is homeomorphc to `Hom(S, T)`. -/
+@[simps]
```
Comment (dagurtomas) [inline Mathlib/Algebra/Category/Ring/Topology.lean:59]:
```suggestion
/-- If `R ≅ S`, then `Hom(R, T)` is homeomorphc to `Hom(S, T)`. -/
@[simps]
```

File: Mathlib/Algebra/Category/Ring/Topology.lean [hunk 3]
```diff
@@ -0,0 +1,176 @@
...
+def compRightEquiv [TopologicalSpace T] (f : R ≅ S) :
+    (S ⟶ T) ≃ₜ (R ⟶ T) where
```
Comment (dagurtomas) [inline Mathlib/Algebra/Category/Ring/Topology.lean:61]:
```suggestion
def compRightHomeo [TopologicalSpace T] (f : R ≅ S) :
    (S ⟶ T) ≃ₜ (R ⟶ T) where
```

**Review by dagurtomas — COMMENTED** [review]
This looks mostly good to me, just a couple of thoughts:

- You develop everything for the hom sets `R ⟶ S` in `CommRingCat`. Some of this could equally easily be developed for `R →+* S`. I can see how the new concrete category API makes it a bit harder to go back and forth between these, but it might still be useful? If you think it won't be used, it's fine by me to do everything in the categorical language.

- Isn't `comp_right` usually called `precomp`? In any case, the way composition is written in categories in Lean, `comp_left` makes more sense :-)

**Comment by erdOne** [comment]
The reason I defined the topology on `R ⟶ S` is because I had only seen this definition in algebraic geometry and for usual ring homs maybe we want something else (e.g. the compact-open topology?).

**Comment by erdOne** [comment]
@undergraduate-ruiqi-chen I think you had some git mishap and merged some unrelated things into this PR?
You might want to reopen the merged PR again, and if you need any help on doing so (as the workflow in mathlib is slightly unconventional) please let me know or just ask for help on Zulip.

File: scripts/noshake.json [hunk 4]
```diff
@@ -57,6 +57,7 @@
   "Mathlib.Mathport.Rename",
   "Mathlib.Probability.Notation",
   "Mathlib.Tactic.Abel",
+  "Mathlib.Tactic.Algebraize",
```
Comment (kbuzzard) [inline scripts/noshake.json:60]: This is all well and good but there are now other files in mathlib with an unnecessary `import Mathlib.Tactic.Algebraize` because the file you added it to is imported by quite a lot of other files. Not sure if that should be a separate PR though? Up to you but ultimately I guess probably the unnecessary imports should be removed

File: Mathlib/Topology/Constructions.lean [hunk 5]
```diff
@@ -993,6 +993,12 @@ instance Pi.discreteTopology : DiscreteTopology (∀ i, π i) :=
     rw [← univ_pi_singleton]
     exact isOpen_set_pi finite_univ fun i _ => (isOpen_discrete {x i})
 
+lemma Function.Surjective.isEmbedding_comp {n m : Type*} (f : m → n) (hf : Function.Surjective f) :
+    IsEmbedding ((· ∘ f) : (n → X) → (m → X)) := by
+  refine ⟨isInducing_iff_nhds.mpr fun x ↦ ?_, hf.injective_comp_right⟩
+  simp only [nhds_pi, Filter.pi, Filter.comap_iInf, ← hf.iInf_congr, Filter.comap_comap]
+  rfl
```
Comment (kbuzzard) [inline Mathlib/Topology/Constructions.lean:1000]:
```suggestion
  simp only [nhds_pi, Filter.pi, Filter.comap_iInf, ← hf.iInf_congr, Filter.comap_comap,
    Function.comp_def]
```
if you like (I always feel like `rfl` after `simp` is saying "we are missing API")

File: Mathlib/Algebra/Category/Ring/Constructions.lean [hunk 6]
```diff
@@ -125,6 +126,28 @@ lemma isPushout_of_isPushout (R S A B : Type u) [CommRing R] [CommRing S]
...
+  rintro x -
+  induction x with
+  | zero => exact zero_mem _
+  | tmul x y =>
+    convert_to (Algebra.TensorProduct.includeLeftRingHom (R := R) x) *
+      (Algebra.TensorProduct.includeRight y) ∈ _
+    · simp
+    · exact mul_mem (Subring.subset_closure (.inl ⟨x, rfl⟩))
+        (Subring.subset_closure (.inr ⟨_, rfl⟩))
+  | add x y _ _ => exact add_mem ‹_› ‹_›
```
Comment (kbuzzard) [inline Mathlib/Algebra/Category/Ring/Constructions.lean:149]: It strikes me as odd that the hypotheses of the theorem are completely category-theoretic and the conclusion is completely category-free (and indeed can't really be expressed in a category-theoretic way). Is this just an inevitable consequence of having two ways to say things?

File: Mathlib/Algebra/Category/Ring/Topology.lean [hunk 7]
```diff
@@ -0,0 +1,176 @@
...
+  continuous_toFun := continuous_precomp f.hom
+  continuous_invFun := continuous_precomp f.inv
+  left_inv _ := by simp
+  right_inv _ := by simp
+
+lemma isHomeomorph_precomp [TopologicalSpace T] (f : R ⟶ S) [IsIso f] :
+    IsHomeomorph ((f ≫ ·) : (S ⟶ T) → (R ⟶ T)) :=
+  (precompHomeo (asIso f)).isHomeomorph
+
+/-- `Hom(R/I, T)` has the subspace topology of `Hom(R, T)`. -/
```
Comment (kbuzzard) [inline Mathlib/Algebra/Category/Ring/Topology.lean:71]: Maybe add "More generally, a surjection R -> S gives rise to an embedding Hom(S, T) -> Hom(R,T)"?
I was just surprised to see no ideals in the statement (my initial reaction was "the docstring
must be wrong")

File: Mathlib/Algebra/Category/Ring/Topology.lean [hunk 8]
```diff
@@ -0,0 +1,176 @@
...
+    Continuous (fun f : R ⟶ S ↦ f.hom x) :=
+  (continuous_apply x).comp continuous_induced_dom
+
+@[fun_prop]
+lemma continuous_precomp [TopologicalSpace T] (f : R ⟶ S) :
+    Continuous ((f ≫ ·) : (S ⟶ T) → (R ⟶ T)) :=
+  continuous_induced_rng.mpr ((Pi.continuous_precomp f.hom).comp continuous_induced_dom)
+
+/-- If `R ≅ S`, then `Hom(R, T)` is homeomorphc to `Hom(S, T)`. -/
+@[simps]
```
Comment (kbuzzard) [inline Mathlib/Algebra/Category/Ring/Topology.lean:59]: Because you did not supply the `toFun` field explicitly, the apply lemma generated by `@[simps]` has an inaccessible variable name for the input. My instinct is that this should be avoided because you could imagine Lean auto-naming a variable with an inaccessible name when using the apply lemma. You can avoid this potential pitfall with `toFun x := _` I guess?

File: Mathlib/Algebra/Category/Ring/Topology.lean [hunk 9]
```diff
@@ -0,0 +1,176 @@
...
+import Mathlib.Algebra.Category.Ring.Constructions
+import Mathlib.Algebra.MvPolynomial.CommRing
+import Mathlib.Topology.Algebra.Ring.Basic
+
+/-!
+# Topology on `Hom(R, S)`
+
+In this file, we define topology on `Hom(R, S)` for a topological ring `S`,
+given by the coarsest topology that makes `f ↦ f x` continuous for all `x : R`.
+Alternatively, given a presentation `R = ℤ[x₁,...,xₙ]/I`,
```
Comment (kbuzzard) [inline Mathlib/Algebra/Category/Ring/Topology.lean:16]: Maybe "For finitely-generated rings `R = ℤ[x₁,...,xₙ]/I` this can alternatively be
described as the subspace..."?

File: Mathlib/Algebra/Category/Ring/Topology.lean [hunk 10]
```diff
@@ -0,0 +1,176 @@
...
+  convert this
+  ext x
+  simp only [Set.mem_range, Set.iInf_eq_iInter, Set.mem_iInter, Set.mem_setOf_eq, Subtype.forall,
+    RingHom.mem_ker]
+  constructor
+  · rintro ⟨g, rfl⟩ a ha; simp [ha]
+  · exact fun H ↦ ⟨CommRingCat.ofHom (RingHom.liftOfSurjective f.hom hf ⟨x.hom, H⟩),
+      by ext; simp [RingHom.liftOfRightInverse_comp_apply]⟩
+
+/-- `Hom(S[Xᵢ], R)` is homeomorphic to `Hom(S, R) × Rⁱ`. -/
```
Comment (kbuzzard) [inline Mathlib/Algebra/Category/Ring/Topology.lean:96]:
```suggestion
/-- `Hom(S[Xᵢ], R)` is homeomorphic to `Hom(S, R) × Rᶥ`. -/
```
Don't you think this is better?

File: Mathlib/Algebra/Category/Ring/Topology.lean [hunk 11]
```diff
@@ -0,0 +1,176 @@
...
+instance [TopologicalSpace S] [T2Space S] : T2Space (R ⟶ S) :=
+  (isEmbedding_hom R S).t2Space
+
+instance [TopologicalSpace S] [IsTopologicalRing S] [T1Space S] [CompactSpace S] :
+    CompactSpace (R ⟶ S) :=
+  (isClosedEmbedding_hom R S).compactSpace
+
+open Limits
+
+/-- `Hom(A ⊗[S] B, R)` has the subspace topology from `Hom(A, R) × Hom(B, R)`. -/
```
Comment (kbuzzard) [inline Mathlib/Algebra/Category/Ring/Topology.lean:142]: I know this is kind of silly, but if I had written this file I would have tried hard to keep the notation more consistent. In the module docstring you talk about the topology on Hom(R,S) for S a topological ring, but now we're at the end of the file and we still have rings R and S but now R is the topological ring. I think it helps readability if you are more consistent with which ring has the topology. Can you face switching R and S in this proof and in mvPolynomialHomeo, and make the embedding theorems be about A -> S and B -> S? I find myself thinking hard about this sort of thing because I'm convinced it aids human understandability (I'm well aware Lean doesn't care though!)

File: Mathlib/Algebra/Category/Ring/Topology.lean [hunk 12]
```diff
@@ -0,0 +1,176 @@
...
+lemma isEmbedding_pushout [TopologicalSpace R] [IsTopologicalRing R]
+    (φ : S ⟶ A) (ψ : S ⟶ B) :
+    IsEmbedding fun f : pushout φ ψ ⟶ R ↦ (pushout.inl φ ψ ≫ f, pushout.inr φ ψ ≫ f) := by
+  let PA := CommRingCat.of (MvPolynomial A S)
+  let PB := CommRingCat.of (MvPolynomial B S)
```
Comment (kbuzzard) [inline Mathlib/Algebra/Category/Ring/Topology.lean:147]: This proof looks like it has some interesting ideas in. Why not sketch what's going on in comments? It is long, after all, and after only two lines I'm already convinced that you're doing something interesting.

**Comment by kbuzzard** [comment]
A bunch of pedantic comments but this LGTM. I am a bit nervous on putting topologies on ring homs, I am pretty sure that one shouldn't be putting topologies on continuous ring homs because here I think there's more than one answer. But maybe for ring homs it's fine? Maybe just wait until we need it?

File: scripts/noshake.json (hunk 4 above)
Comment (erdOne) [reply scripts/noshake.json:60]: Will do in a separate PR.

File: Mathlib/Algebra/Category/Ring/Constructions.lean (hunk 6 above)
Comment (erdOne) [reply Mathlib/Algebra/Category/Ring/Constructions.lean]: I extracted the non-categorical part into its own lemma.

**Comment by kbuzzard** [comment]
LGTM!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
